US07863269B2
12b) 4-Ethoxy-6,N-dimethylnicotinamide
4-Chloro-6,N-dimethylnicotinamide (2.4 g) was dissolved with stirring in abs. ethanol (40 ml) and treated with sodium ethoxide (1.8 g). After stirring at RT for 4 h, the mixture was allowed to stand overnight. After addition of water, it was extracted 3 times with DCM. The combined organic phases were dried over sodium sulfate, filtered and concentrated. 2.2 g of the desired compound were obtained.

reactant | 4-Chloro-6,N-dimethylnicotinamide | 2.4 g | ClC1=CC(=NC=C1C(=O)NC)C | C8H9ClN2O
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | sodium ethoxide | 1.8 g | [O-]CC.[Na+]
solvent | water | O | H2O
product | 4-Ethoxy-6,N-dimethylnicotinamide | 2.2 g | C(C)OC1=CC(=NC=C1C(=O)NC)C | C10H14N2O2
